US04757079
To a stirred solution of 1-methylisonipecotic acid hydrochloride (178.64 g, 1 mol) in 350 mL of methanol (8 equivalents) was added, dropwise with stirring and cooling (ice-salt bath) to -10° C., 112.8 mL (1.55 equivalents) of thionyl chloride. After completion of the addition (1 hour), the ice-salt bath was removed and the temperature allowed to rise to 40° C. and held at this point for 2 hours. The solution was brought to about pH 8 with sodium carbonate and extracted with methylene chloride. The methylene chloride solution was dried and evaporated to give 136.88 g (87%) of methyl 1-methylpiperidine-4-carboxylate as a clear liquid. The IR spectrum confirmed that the product was the methyl ester.

reactant | 1-methylisonipecotic acid hydrochloride | 1 mol, 178.64 g | Cl.CN1CCC(C(=O)O)CC1
reactant | methanol | 350 mL, 8 equivalents | CO | CH4O
reactant | thionyl chloride | 112.8 mL, 1.55 equivalents | S(=O)(Cl)Cl | Cl2OS
product | methyl 1-methylpiperidine-4-carboxylate | 136.88 g, 87% | CN1CCC(CC1)C(=O)OC | C8H15NO2
